US06511974B1
[2-Chloro-4-(1H-imidazol-1-yl)-phenyl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone
In the manner of Example 9's Method 1, employing (2-chloro-4-fluorophenyl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone (2.0 g), 60% sodium hydride in oil (0.50 g, degreased with hexane), imidazole (0.50 g) and dimethylformamide (25 ml), the tide compound (0.57 g) was obtained as a tan amorphous solid, MS, n/z: 389 (M+H)+.

reactant | (2-chloro-4-fluorophenyl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 2.0 g | ClC1=C(C=CC(=C1)F)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C19H14ClFN2O
reactant | sodium hydride | [H-].[Na+]
reactant | hexane | CCCCCC | C6H14
reactant | imidazole | 0.50 g | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | [2-Chloro-4-(1H-imidazol-1-yl)-phenyl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 0.57 g | ClC1=C(C=CC(=C1)N1C=NC=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C22H17ClN4O
